US07632783B2
3-(2,3,3-trimethyl-1,2,3,4-tetrahydroisoquinolin-1-yl)quinoline (Compound No. 2-33) (Process D)
Potassium carbonate (500 mg, 3.6 mmol) and methyl iodide (0.33 mL, 5.0 mmol) were added to an acetone (2 mL) solution of 3-(3,3-dimethyl-1,2,3,4-tetrahydroisoquinolin-1-yl) quinoline (144 mg, 0.5 mmol) followed by stirring for 3 hours at room temperature, filtering, concentrating the filtrate and applying the resulting residue to chromatography to obtain 60 mg of the target compound (yield: 40%).

reactant | Potassium carbonate | 3.6 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 5.0 mmol, 0.33 mL | CI | CH3I
reactant | 3-(3,3-dimethyl-1,2,3,4-tetrahydroisoquinolin-1-yl) quinoline | 0.5 mmol, 144 mg | CC1(NC(C2=CC=CC=C2C1)C=1C=NC2=CC=CC=C2C1)C | C20H20N2
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 3-(2,3,3-trimethyl-1,2,3,4-tetrahydroisoquinolin-1-yl)quinoline | 60 mg, yield: 40% | CN1C(C2=CC=CC=C2CC1(C)C)C=1C=NC2=CC=CC=C2C1 | C21H22N2
